* PEX produced on Sat Aug 29 11:51:31 AM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from cdac.ext - technology: sky130A

.subckt cdac ctop b1 b2 b3a b4a b5b b6b b0 vss b4b b5a b6a b3b
X0 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X1 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X2 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X3 ctop b2 sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X4 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X5 ctop b4a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X6 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X7 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X8 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X9 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X10 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X11 ctop b4b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X12 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X13 ctop b2 sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X14 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X15 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X16 b6b b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X17 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X18 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X19 ctop b3b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X20 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X21 ctop b4b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X22 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X23 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X24 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X25 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X26 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X27 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X28 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X29 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X30 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X31 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X32 ctop b2 sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X33 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X34 ctop b3a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X35 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X36 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X37 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X38 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X39 ctop b4a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X40 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X41 b5a b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X42 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X43 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X44 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X45 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X46 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X47 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X48 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X49 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X50 ctop b3b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X51 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X52 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X53 ctop b4a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X54 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X55 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X56 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X57 b5b b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X58 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X59 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X60 b6a b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X61 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X62 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X63 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X64 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X65 ctop b3a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X66 ctop b4a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X67 b6a b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X68 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X69 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X70 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X71 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X72 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X73 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X74 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X75 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X76 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X77 ctop b3a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X78 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X79 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X80 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X81 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X82 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X83 ctop b1 sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X84 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X85 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X86 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X87 b6a b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X88 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X89 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X90 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X91 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X92 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X93 ctop b4b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X94 ctop b1 sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X95 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X96 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X97 ctop b4b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X98 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X99 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X100 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X101 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X102 ctop b3b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X103 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X104 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X105 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X106 b5b b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X107 b3a b3a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X108 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X109 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X110 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X111 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X112 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X113 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X114 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X115 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X116 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X117 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X118 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X119 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X120 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X121 ctop b3a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X122 ctop b4a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X123 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X124 ctop b4a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X125 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X126 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X127 ctop b3b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X128 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X129 ctop b4a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X130 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X131 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X132 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X133 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X134 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X135 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X136 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X137 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X138 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X139 ctop b2 sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X140 ctop b4a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X141 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X142 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X143 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X144 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X145 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X146 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X147 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X148 ctop b4b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X149 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X150 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X151 ctop b0 sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X152 ctop b4b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X153 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X154 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X155 b6b b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X156 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X157 ctop b4b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X158 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X159 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X160 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X161 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X162 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X163 b6a b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X164 ctop b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X165 b6b b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X166 b5a b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X167 ctop vss sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X168 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X169 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X170 ctop b4b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X171 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X172 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X173 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X174 ctop ctop sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X175 ctop b5a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X176 b6b b6b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X177 ctop b6a sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X178 ctop b5b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X179 b3b b3b sky130_fd_pr__cap_mim_m3_1 l=2 w=2
C0 b4a vss 0.05197f
C1 b1 b2 1.86513f
C2 b5b b4b 1.46995f
C3 ctop b2 2.55983f
C4 b4a b3a 0.23172f
C5 b4b b3b 0.46573f
C6 b0 b3a 0.11585f
C7 b6a b6b 6.54662f
C8 b1 b3b 0.72139f
C9 b0 b4a 0.05392f
C10 b5b ctop 11.1525f
C11 b6a ctop 22.6353f
C12 ctop b3b 3.85672f
C13 b6b b5a 2.8188f
C14 b3a b4b 0.09625f
C15 ctop vss 0.93902f
C16 ctop b5a 11.0484f
C17 b4a b4b 7.35809f
C18 b1 b3a 0.52709f
C19 ctop b3a 3.64251f
C20 b2 b3b 1.04935f
C21 b2 vss 0.11614f
C22 b4a ctop 6.52177f
C23 b0 ctop 0.60708f
C24 b3a b2 2.74179f
C25 vss b3b 0.47085f
C26 b1 b4b 0.05347f
C27 b5b b5a 2.67167f
C28 ctop b4b 5.33264f
C29 b6a b5a 0.64391f
C30 b4a b2 0.63744f
C31 b0 b2 1.31971f
C32 ctop b6b 22.0967f
C33 b3a b3b 5.13876f
C34 b3a vss 0.32062f
C35 b1 ctop 1.31368f
C36 b4a b5b 0.54171f
C37 b4a b3b 0.47947f
C38 b2 b4b 0.07847f
C39 b0 b3b 1.16561f
C40 vss VSUBS 1.10092f
C41 b0 VSUBS 0.53804f
C42 b1 VSUBS 0.84543f
C43 b2 VSUBS 2.12987f
C44 b4b VSUBS 4.26788f
C45 b4a VSUBS 5.24986f
.ends

